US09238640B2
A solution of tert-butyl 4-(N-isopropylacetamido)piperidine-1-carboxylate (0.880 g, 3.09 mmol) in hydrogen chloride (4.0 M solution in 1,4-dioxane, 10 mL) was stirred at room temperature overnight. The resulting solution was concentrated in vacuo, basified with aqueous saturated NaHCO3, and extracted with EtOAc. The organics were dried (Na2SO4), filtered, and concentrated in vacuo. The material was purified by flash chromatography on silica gel, eluting with 50% to 100% of 92:7:1 CHCl3/MeOH/concentrated NH4OH in CH2Cl2. The residue was further purified by flash chromatography on silica gel, eluting with 100% of 92:7:1 CHCl3/MeOH/concentrated NH4OH, to afford N-Isopropyl-N-(piperidin-4-yl)acetamide hydrogen chloride (0.260 g, 45%) as a clear liquid.

reactant | tert-butyl 4-(N-isopropylacetamido)piperidine-1-carboxylate | 3.09 mmol, 0.880 g | C(C)(C)N(C(C)=O)C1CCN(CC1)C(=O)OC(C)(C)C | C15H28N2O3
reactant | hydrogen chloride | 4.0 M, 10 mL | Cl | ClH
product | N-Isopropyl-N-(piperidin-4-yl)acetamide hydrogen chloride | 0.260 g, 45% | Cl.C(C)(C)N(C(C)=O)C1CCNCC1 | InChI=1S/C10H20N2O.ClH/c1-8(2)12(9(3)13)10-4-6-11-7-5-10;/h8,10-11H,4-7H2,1-3H3;1H
